* source GMC
X_M13         N05735 N05735 N05995 BSS119/SIE
I_I1         N05885 0 DC 1000mAdc  
X_M32         IO2 0 N19632 BSS110/SIE
X_M54         IO5 N20242 N20288 BSS119/SIE
X_M41         N19897 IO5 N19955 BSS110/SIE
X_M23         N18493 N18493 N18539 BSS119/SIE
X_M61         N20626 0 N20684 BSS110/SIE
X_M14         IO1 N05735 N05995 BSS119/SIE
V_V3         N19620 0 6Vdc
I_I4         N19955 0 DC 1000mAdc  
X_M21         N18493 IO1 N18551 BSS110/SIE
I_I6         N20684 0 DC 1000mAdc  
X_M34         IO2 N19574 N19620 BSS119/SIE
C_C1         0 IO2  80n  
X_M53         N20242 N20242 N20288 BSS119/SIE
C_C2         0 IO4  78n  
X_M42         IO4 IO2 N19955 BSS110/SIE
I_I2         N18551 0 DC 1000mAdc  
X_M62         IO5 IO5 N20684 BSS110/SIE
V_V7         IO1 0 DC 0Vdc AC 1Vac 
X_M51         N20242 0 N20300 BSS110/SIE
V_V4         N19943 0 6Vdc
X_M11         N05735 IO2 N05885 BSS110/SIE
V_V6         N20672 0 6Vdc
X_M33         N19574 N19574 N19620 BSS119/SIE
X_M22         IO2 IO2 N18551 BSS110/SIE
V_V1         N05995 0 6Vdc
X_M44         IO4 N19897 N19943 BSS119/SIE
X_M12         IO1 IO1 N05885 BSS110/SIE
X_M64         IO5 N20626 N20672 BSS119/SIE
I_I5         N20300 0 DC 1000mAdc  
V_V2         N18539 0 6Vdc
X_M31         N19574 IO4 N19632 BSS110/SIE
X_M24         IO2 N18493 N18539 BSS119/SIE
X_M52         IO5 IO4 N20300 BSS110/SIE
X_M43         N19897 N19897 N19943 BSS119/SIE
I_I3         N19632 0 DC 1000mAdc  
X_M63         N20626 N20626 N20672 BSS119/SIE
V_V5         N20288 0 6Vdc
