* source GMC
X_M73         N33465 N33465 N33461 BSS119/SIE
X_M13         N05735 N05735 N05995 BSS119/SIE
I_I1         N05885 0 DC 1000mAdc  
X_M32         IO2 0 N19632 BSS110/SIE
I_I6         N34033 0 DC 900mAdc  
X_M54         IO5 N20242 N20288 BSS119/SIE
X_M41         N19897 IO5 N19955 BSS110/SIE
X_M23         N18493 N18493 N18539 BSS119/SIE
X_M94         IO8 N31977 N31973 BSS119/SIE
X_M63         N33981 N33981 N33977 BSS119/SIE
X_M14         IO1 N05735 N05995 BSS119/SIE
V_V3         N19620 0 6Vdc
X_M84         IO8 N32976 N32972 BSS119/SIE
I_I4         N19955 0 DC 1000mAdc  
X_M21         N18493 IO1 N18551 BSS110/SIE
X_M74         IO7 N33465 N33461 BSS119/SIE
X_M92         IO8 IO8 N32029 BSS110/SIE
X_M34         IO2 N19574 N19620 BSS119/SIE
C_C1         0 IO2  42.5n  
X_M53         N20242 N20242 N20288 BSS119/SIE
C_C2         0 IO4  102n  
X_M42         IO4 IO2 N19955 BSS110/SIE
X_M64         IO5 N33981 N33977 BSS119/SIE
X_M82         IO8 IO7 N33028 BSS110/SIE
I_I2         N18551 0 DC 1000mAdc  
X_M72         IO7 IO5 N33517 BSS110/SIE
X_M91         N31977 0 N32029 BSS110/SIE
V_VSIG         IO1 0 DC 1Vdc AC 1Vac 
X_M51         N20242 0 N20300 BSS110/SIE
V_V4         N19943 0 6Vdc
X_M11         N05735 IO2 N05885 BSS110/SIE
X_M33         N19574 N19574 N19620 BSS119/SIE
X_M22         IO2 IO2 N18551 BSS110/SIE
X_M62         IO5 0 N34033 BSS110/SIE
V_V9         N31973 0 6Vdc
X_M81         N32976 0 N33028 BSS110/SIE
X_M71         N33465 IO8 N33517 BSS110/SIE
V_V1         N05995 0 6Vdc
X_M44         IO4 N19897 N19943 BSS119/SIE
X_M12         IO1 IO1 N05885 BSS110/SIE
I_I5         N20300 0 DC 1000mAdc  
C_C4         0 IO7  42.5n  
V_V2         N18539 0 6Vdc
V_V8         N32972 0 6Vdc
I_I9         N32029 0 DC 1000mAdc  
X_M31         N19574 IO4 N19632 BSS110/SIE
V_V7         N33461 0 6Vdc
X_M61         N33981 IO7 N34033 BSS110/SIE
X_M93         N31977 N31977 N31973 BSS119/SIE
C_C3         0 IO5  102n  
X_M24         IO2 N18493 N18539 BSS119/SIE
X_M52         IO5 IO4 N20300 BSS110/SIE
I_I8         N33028 0 DC 1000mAdc  
V_V6         N33977 0 6Vdc
X_M43         N19897 N19897 N19943 BSS119/SIE
I_I3         N19632 0 DC 900mAdc  
I_I7         N33517 0 DC 1000mAdc  
X_M83         N32976 N32976 N32972 BSS119/SIE
V_V5         N20288 0 6Vdc
